US08124649B2
To a solution of 3-(4-methyl-5-((2-oxoindolin-3-ylidene)methyl)furan-2-yl)benzoic acid (40 mg, 0.12 mol) and HOBt (32 mg, 0.24 mol) in DMF (0.5 mL) was added EDCI (46 mg, 0.24 mmol). The reaction was stirred at rt for 10 min and then added 2-(pyrrolidin-1-yl)ethanamine (0.05 mL) followed by DIEA (0.05 mL). The reaction mixture was stirred at rt for 1 h and diluted with H2O (10 mL). The mixture was extracted with EtOAc (3×20 mL), dried over Na2SO4 and concentrated. The crude was purified by prep TLC (5%/MeOH, 1% TEA/DCM) to give 3-(4-methyl-5-((2-oxoindolin-3-ylidene)methyl)furan-2-yl)-N-(2-(pyrrolidin-1-yl)ethyl)benzamide (25 mg) LCMS (ES): m/z 442 [M+1]+.

reactant | 3-(4-methyl-5-((2-oxoindolin-3-ylidene)methyl)furan-2-yl)benzoic acid | 0.12 mol, 40 mg | CC=1C=C(OC1C=C1C(NC2=CC=CC=C12)=O)C=1C=C(C(=O)O)C=CC1 | C21H15NO4
reactant | HOBt | 0.24 mol, 32 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.24 mmol, 46 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-(pyrrolidin-1-yl)ethanamine | 0.05 mL | N1(CCCC1)CCN | C6H14N2
reactant | DIEA | 0.05 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | H2O | 10 mL | O | H2O
product | 3-(4-methyl-5-((2-oxoindolin-3-ylidene)methyl)furan-2-yl)-N-(2-(pyrrolidin-1-yl)ethyl)benzamide | 25 mg | CC=1C=C(OC1C=C1C(NC2=CC=CC=C12)=O)C=1C=C(C(=O)NCCN2CCCC2)C=CC1 | C27H27N3O3
